US04383945
2,2'-Azobis(2-methylpropionitrile) (98 mg) and tributyltin hydride (0.95 ml) were added to a solution of methyl 2-[(3R,4R)-3-isocyano-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate (740 mg) in benzene (15 ml), and the mixture was refluxed for 20 minutes. The reaction mixture was chromatographed on silica gel (15 g) eluting with a mixture of hexane and ethyl acetate (5:1-3:1) to give methyl 2-[(4R)-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate (660 mg).

reactant | 2,2'-Azobis(2-methylpropionitrile) | 98 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | tributyltin hydride | 0.95 ml | C(CCC)[SnH](CCCC)CCCC
reactant | methyl 2-[(3R,4R)-3-isocyano-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate | 740 mg | [N+](#[C-])[C@H]1C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O | C13H16N2O3
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | methyl 2-[(4R)-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate | 660 mg | O=C1N([C@@H](C1)CC=C)C(C(=O)OC)=C(C)C | C12H17NO3
